US07094798B1
3N HCl (50 mL) was added to a solution of 6-(3-{[tert-Butyl(dimethyl) silyl]oxy}propyl)-4-(2-chlorophenyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione (4.87 g, 8.85 mmol) prepared according to example 39 in 1:1 THF/methanol (200 mL). After stirring at room temperature for 2 h most of the solvents were removed in vacuo, the residue was extracted with ethyl acetate, washed well with water and the organic portion was concentrated to a volume of 60 mL. Petroleum ether was added to precipitate the product, which was filtered off and triturated several times with diethyl ether. The solid was crystallised from THF/petroleum ether and gave 4-(2-Chlorophenyl)-6-(3-hydroxypropyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione (V; Ar=2-chlorophenyl, R10═CH2CH2CH2OH) (31)in a 3.77 g, 88% yield as a yellow powder; mp 228–230° C. 1H NMR δ [(CD3)2SO] 11.12 (br s, 1H), 8.52 (d, J=2.5 Hz, 1H), 7.80 (s, 1H), 7.70 (d, J=8.9 Hz, 1H), 7.58 (dd, J=8.1, 22 Hz, 1H), 7.53–7.42 (m, 3H), 7.31 (dd, J=8.9, 2.5 Hz, 1H), 4.63 (br, 1H), 4.53 (t, J=6.9 Hz, 2H), 3.91 (s, 3H), 3.40 (m, 2H), 1.91 (m, 2H). Found: C, 66.00; H, 4.23; N, 6.55. C24H19ClN2O4 requires C, 66.29; H, 4.40; N, 6.44.

reactant | HCl | 3N, 50 mL | Cl | ClH
reactant | 6-(3-{[tert-Butyl(dimethyl) silyl]oxy}propyl)-4-(2-chlorophenyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione | 8.85 mmol, 4.87 g | [Si](C)(C)(C(C)(C)C)OCCCN1C=2C=CC(=CC2C=2C3=C(C(=CC12)C1=C(C=CC=C1)Cl)C(NC3=O)=O)OC | C30H33ClN2O4Si
solvent | THF methanol | 200 mL | C1CCOC1.CO
product | 4-(2-Chlorophenyl)-6-(3-hydroxypropyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione | 88% yield | ClC1=C(C=CC=C1)C1=CC=2N(C=3C=CC(=CC3C2C2=C1C(NC2=O)=O)OC)CCCO | C24H19ClN2O4
